US07074787B2
3-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4-methyl-oxazolidin-2-one
A solution of Xantphos (0.018 g) and Pd2(dba)3 (0.014 g) in toluene (2 ml) is stirred under argon at room temperature for 20 minutes. Then (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine (0.20 g), (R)-4-methyl-oxazolidin-2-one (0.127 g), NaOtBu (0.085 g) and toluene ((2 ml) are added. The reaction mixture is refluxed at 120° C. for 1 hour. After this time the mixture is cooled to room temperature, diluted with ethyl acetate, and washed with water. The organic layer is dried over Na2SO4 and concentrated under vacuum. The residue is purified by silicagel chromatography to give the title compound, m.p. 177–178° C. and [α]D=−72.0° (20° C., c=1).

reactant | Xantphos | 0.018 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | (3-chloro-phenyl)-[4-(2-chloro-pyridin-4-yl)-pyrimidin-2-yl]-amine | 0.20 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)Cl | C15H10Cl2N4
reactant | (R)-4-methyl-oxazolidin-2-one | 0.127 g | C[C@H]1NC(OC1)=O | C4H7NO2
reactant | NaOtBu | 0.085 g | CC(C)(C)[O-].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.014 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4-methyl-oxazolidin-2-one | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1C(OCC1C)=O | C19H16ClN5O2
